US07232803B2
Boc-D-Arg-D-Trp-OBzl (KP-2-1)
To a stirred solution of Boc-D-Arg-OH hydrochloride (855 mg, 2.75 mmoles), H-D-Trp-OBzl hydrochloride (832 mg, 2.5 mmoles), HOBt (1378 mg, 9 mmoles) and DIPEA (2.05 ml, 12 mmoles) in DMF (5 ml) and dichloromethane (1 ml) cooled on ice was added HBTU (1138 mg, 3 mmoles) in small portions over 10 minutes. The mixture was stirred on ice for 1 hour, 40 ml dichloromethane was added and the organic phase washed successivly with 3×40 ml saturated NaHCO3, 2×30 ml 5% citric acid, 50 ml water and 2×30 ml brine. Evaporation afforded a white solid.

reactant | Boc-D-Arg-OH hydrochloride | 2.75 mmoles, 855 mg | N([C@H](CCCNC(N)=N)C(=O)O)C(=O)OC(C)(C)C.Cl
reactant | H-D-Trp-OBzl hydrochloride | 2.5 mmoles, 832 mg | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1.Cl
reactant | HOBt | 9 mmoles, 1378 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 12 mmoles, 2.05 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 3 mmoles, 1138 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Boc-D-Arg-D-Trp-OBzl | N([C@H](CCCNC(N)=N)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C29H38N6O5
